US04186129
3 mmol of 2-(3,4-dimethoxyphenyl)-2-hydroxyethylcarbamic acid ethyl ester is suspended with 4 mmol of sodium methylate in 12 ml. of toluene and heated for 2 hours to a bath temperature of 110° under the exclusion of moisture. During this step, methanol and ethanol are distilled off. The toluene is then withdrawn under vacuum, the residue is taken up in 50 ml. of chloroform and distributed over 10 ml. of water. After drying, filtration, and concentration of the organic phase, the mixture is recrystallized from methanol, thus obtaining an 80% yield of 5-(3,4-dimethoxyphenyl)-2-oxazolidinone, m.p. 114°-117°.

reactant | 2-(3,4-dimethoxyphenyl)-2-hydroxyethylcarbamic acid ethyl ester | 3 mmol | C(C)OC(NCC(O)C1=CC(=C(C=C1)OC)OC)=O | C13H19NO5
reactant | sodium methylate | 4 mmol | C[O-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-(3,4-dimethoxyphenyl)-2-oxazolidinone | 80% yield | COC=1C=C(C=CC1OC)C1CNC(O1)=O | C11H13NO4
